US06211224B1
Step 1E (S)-{2-[5-(1-diethylcarbamoyl-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-carbamic acid tert-butyl ester
To a stirred solution of (S)-2-[3-(2-tert-butoxycarbonylamino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid in dry methylene chloride at 0° C. is added 1-hydroxybenzotriazole followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and the reagents allowed to mix for 1 hour. At this time diethylamine is added followed by 1.5 mL triehtylamine and the reaction stirred at room temperature. After completion, the mixture is concentrated in vacuo and purified by flash chromatography on silica gel to give the title compound.

reactant | (S)-2-[3-(2-tert-butoxycarbonylamino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid | C(C)(C)(C)OC(=O)NC[C@@H](C)C1=C(NC2=CC=C(C=C12)C(C(=O)O)(C)C)C1=CC(=CC(=C1)C)C | C28H36N2O4
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | diethylamine | C(C)NCC | C4H11N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triehtylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
product | (S)-{2-[5-(1-diethylcarbamoyl-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@@H](C)C1=C(NC2=CC=C(C=C12)C(C)(C)C(N(CC)CC)=O)C1=CC(=CC(=C1)C)C)=O | C32H45N3O3
